US07459448B2
1-Benzyl-8-chloro-3,4-dihydro-1H-benzo[b]azepine-2,5-dione (v-N-1)
In a manner similar to that described for Method W, 8-chloro-3,4-dihydro-1H-benzo[b]azepine-2,5-dione and benzyl bromide were converted to the title compound (38%): MS m/z═300 (M+H).

reactant | 8-chloro-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | ClC=1C=CC2=C(NC(CCC2=O)=O)C1 | C10H8ClNO2
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 1-Benzyl-8-chloro-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | 38% | C(C1=CC=CC=C1)N1C2=C(C(CCC1=O)=O)C=CC(=C2)Cl | C17H14ClNO2
